US07645789B2
To a solution of 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid (0.10 g, 0.49 mmol) in acetonitrile (2.0 mL) were added HBTU (0.185 g, 0.49 mmol) and Et3N (205 μL, 1.47 mmol) at room temperature. The mixture was allowed to stir at room temperature for 10 minutes before a slurry of 2-(5-amino-1H-indol-2-yl)propan-1-ol (0.093 g, 0.49 mmol) in acetonitrile (2.7 mL) was added. After addition, the reaction mixture was stirred at room temperature for 5.5 h. The solvent was evaporated under reduced pressure and the residue was dissolved in dichloromethane. The organic layer was washed with 1 N HCl (1×3 mL) and saturated aqueous NaHCO3 (1×3 mL). The organic layer was dried over Na2SO4, filtered and evaporated under reduced pressure. The crude material was purified by column chromatography on silica gel (ethyl acetate/hexane=13/7) to give 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-(1-hydroxypropan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide (0.095 g, 51%). 1H NMR (400 MHz, DMSO-d6) δ 10.74 (s, 1H), 8.38 (s, 1H), 7.55 (s, 1H), 7.14 (d, J=8.6 Hz, 1H), 7.02-6.90 (m, 4H), 6.06 (s, 1H), 6.02 (s, 2H), 4.76 (t, J=5.3 Hz, 1H), 3.68-3.63 (m, 1H), 3.50-3.44 (m, 1H), 2.99-2.90 (m, 1H), 1.41-1.38 (m, 2H), 1.26 (d, J=7.0 Hz, 3H), 1.05-1.02 (m, 2H).

reactant | 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid | 0.49 mmol, 0.10 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
reactant | HBTU | 0.49 mmol, 0.185 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 1.47 mmol, 205 μL | CCN(CC)CC | C6H15N
reactant | 2-(5-amino-1H-indol-2-yl)propan-1-ol | 0.49 mmol, 0.093 g | NC=1C=C2C=C(NC2=CC1)C(CO)C | C11H14N2O
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
solvent | acetonitrile | 2.7 mL | C(C)#N | C2H3N
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-(1-hydroxypropan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide | 0.095 g, 51% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)C(CO)C | C22H22N2O4
